Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Lisinopril / Benadryl Decongestant / Dilaudid / 
fluoxetine / Codeine / Motrin / Aleve / gabapentin / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram ___
 
History of Present Illness:
___ y/o woman with a h/o congenitally anomalous coronary arteries 
with absent RCA (last angiogram ___ with LMCA, LAD, LCx free of 
disease, unable to visualize RCA, later confirmed as absent on 
coronary CTA), microvascular angina on medical therapy 
hypertension, moderate mitral regurgitation, h/o EtOH use 
disorder, asthma, OSA on CPAP, and morbid obesity who presented 
with sudden onset chest pain.

Patient noted sudden onset left sided chest pain with radiation 
into the left arm while sitting in a chair. Left hand had mostly 
tingling sensation in the fingers. These were associated with 
overall weakness, diaphoresis and mild nausea. There was no 
dyspnea or pleuritic component. Symptoms lasted for about 30 
minutes before complete resolution. She has a similar pain a few 
months ago with an ED visit. Patient notes a recent URI on ___ 
with sore throat, cough and headache but otherwise has been in 
her usual state of health. She had been babysitting 
grandchildren who also had URIs. She had low grade fever over 
the weekend with URI but otherwise no infectious symptoms. 

Patient follows with Dr. ___ was last seen on ___, 
at which time microvascular angina well managed on medical 
regimen of clopidogrel, atorvastation, amlodipine, losartan, 
ranolozine. She states that she's been taking all her 
medications. She had been prescribed furosemide 60 mg BID though 
she takes 80 mg daily to avoid urinating overnight. It is 
unclear why she is on furosemide.

In the ED, Initial vitals: T 97.1 BP 124/79 HR 62 SaO2 99% on 
RA. Exam notable for no JVD, distant breath sounds on right, no 
crackles/wheezing, no edema, all extremities warm and well 
perfused. Labs notable for Troponin-T 0.15, 0.15; CBC and BMP 
wnl INR 1.1 D-dimer 366. CXR showed patchy right basilar 
opacities which could reflect atelectasis with infection not 
excluded in the correct clinical setting. EKG: heart rates ___, 
normal sinus rhythm, non-specific T wave flattening. Patient was 
given ranolazine ER 1000 mg, monteleukast 10 mg, atorvastatin 80 
mg, heparin infusion.
 
After arrival to the cardiology ward, the patient confirmed the 
history above. She denied ongoing chest pain, dyspnea, abdominal 
pain, diarrhea, dysuria. She reported ongoing intermittent 
headache and scratchy sensation in her throat.
 
Past Medical History:
-Anomalous coronary arteries with absent RCA (last angiogram 
___ with LMCA, LAD, LCx free of disease, unable to visualize 
RCA
-Provoked DVT (s/p TKR) ___ treated with warfarin
-Asthma (diagnosed ___ yrs ago; has been admitted to ICU but 
never intubated)
-Hypertension
-obesity
-OSA
-tension headaches
-borderline diabetes mellitus (A1C 5.6 ___
-stress incontinence
-GERD
-depression
-osteoarthritis
-endometriosis
-fibroid uterus
-S/P right TKR in ___
-S/P myomectomy
-S/P lipoma removal
 
Social History:
___
Family History:
- mother with breast cancer at age ___, seizures in her ___
- no family history of stroke
- sister had blood clots leading to clots in her lungs, obesity, 
COPD
- father died of MI in ___
 
Physical Exam:
On admission
GENERAL: Well-developed, well-nourished black woman in NAD. 
Mood, affect
appropriate.
T 98 BP 134/79 HR 77 RR 18 Sat 97% on RA
HEENT: Strabismus with right eye temporal deviation, PERRL, 
clear oropharynx
NECK: Supple, JVP hard to assess given body habitus
CARDIAC: RRR, normal S1, S2. No murmurs, rubs, gallops.
LUNGS: Resp were unlabored, no accessory muscle use. CTAB--no 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended; no rebound or guarding
EXTREMITIES: Trace lower extremity edema bilaterally
Neuro: A&Ox3, moving all extremities spontaneously

At discharge
GENERAL: Well-developed, well-nourished, in NAD. Mood, affect 
appropriate.  
24 HR Data (last updated ___ @ 438) Temp: 97.4 (Tm 98.2), 
BP: 109/76 (109-135/63-82), HR: 68 (61-80), RR: 18 (___), O2 
sat: 92% (92-98), O2 delivery: CPAP
Wt: 295.41 lb/134.0 kg  
Fluid Balance (last updated ___ @ 509) 
  Last 8 hours  Total cumulative 55ml
    IN: Total 780ml, PO Amt 120ml, IV Amt Infused 660ml
    OUT:  Total 725ml, Urine Amt 725ml
  Last 24 hours  Total cumulative 875ml
    IN: Total 1600ml, PO Amt 940ml, IV Amt Infused 660ml
    OUT:  Total 725ml, Urine Amt 725ml  
HEENT: Strabismus with right eye temporal deviation, clear 
oropharynx
NECK: Supple, JVP hard to assess given body habitus
CARDIAC: RRR, normal S1, S2. No murmurs, rubs, gallops.
LUNGS: Resp were unlabored, no accessory muscle use. CTAB--no 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended, no rebound or guarding
EXTREMITIES: Trace lower extremity edema bilaterally. Right 
radial arteriotomy site non-tender, no hematoma
 
Pertinent Results:
___ 06:11PM BLOOD WBC-6.4 RBC-4.28 Hgb-12.5 Hct-40.1 MCV-94 
MCH-29.2 MCHC-31.2* RDW-13.9 RDWSD-47.8* Plt ___
___ 06:11PM BLOOD ___ PTT-25.5 ___

___ 06:11PM BLOOD Glucose-143* UreaN-20 Creat-0.9 Na-141 
K-4.3 Cl-101 HCO3-30 AnGap-10

___ 06:11PM BLOOD CK(CPK)-1066*
___ 06:11PM BLOOD CK-MB-16* MB Indx-1.5 cTropnT-0.15* 
proBNP-24
___ 11:58PM BLOOD cTropnT-0.15*

___ 07:48AM BLOOD TSH-1.3

ECG ___ 17:05:11
Normal sinus rhythm. Nonspecific ST-T wave abnormalities. 
Compared with previous ECG, no significant change

CXR ___
Heart size is moderately enlarged, as seen previously. The 
mediastinal and hilar contours are normal. The pulmonary 
vasculature is normal. Patchy opacities are seen in the right 
lung base. No pleural effusion or pneumothorax is seen. There 
are no acute osseous abnormalities. Mild degenerative changes 
are seen in the thoracic spine.
IMPRESSION: Patchy right basilar opacities could reflect 
atelectasis with infection not excluded in the correct clinical 
setting. 

Coronary angiogram ___
The coronary circulation is left dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. The Diagonal, arising from the 
proximal segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The Obtuse Marginal, arising from the proximal 
segment, is a medium caliber vessel. The Atrioventricular 
Circumflex, arising from the mid segment, is a medium caliber 
vessel. The Left Posterior Descending Artery, arising from the 
distal segment, is a medium caliber vessel.
RCA: There is a congenitally absent Right Coronary Artery. There 
RCA territory is supplied by vessels off the LAD and the LCx.
Findings
• No angiographically apparent coronary artery disease.
Recommendations
• Maximize medical therapy
• TR band management per routine.

Echocardiogram ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. The right atrial pressure could not be 
estimated. There is mild symmetric left ventricular hypertrophy 
with a normal cavity size. There is normal regional and global 
left ventricular systolic function. Quantitative 3D volumetric 
left ventricular ejection fraction is 64 % (normal 54-73%). 
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Diastolic parameters are 
indeterminate. Mildly dilated right ventricular cavity with 
normal free wall motion. Tricuspid annular plane systolic 
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal descending aorta 
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is trace aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is an eccentric, inferolateral directed jet of 
mild to moderate [___] mitral regurgitation. Due to acoustic 
shadowing, the severity of mitral regurgitation could be 
UNDERestimated. Due to the Coanda effect, the severity of mitral 
regurgitation could be UNDERestimated. The pulmonic valve 
leaflets are normal. There is significant pulmonic 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is borderline 
elevated. There is a trivial pericardial effusion.
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global biventricular systolic function. Mild mitral 
regurgitation. Mild tricuspid regurgitation. Borderline elevated 
pulmonary artery systolic pressure.

DISCHARGE LABS
___ 07:49AM BLOOD WBC-5.6 RBC-3.81* Hgb-11.0* Hct-36.1 
MCV-95 MCH-28.9 MCHC-30.5* RDW-14.1 RDWSD-48.6* Plt ___
___ 07:49AM BLOOD ___ PTT-26.0 ___
___ 07:49AM BLOOD Glucose-96 UreaN-15 Creat-0.7 Na-142 
K-4.3 Cl-104 HCO3-28 AnGap-10
___ 07:49AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.___ y/o woman with H/O congenitally anomalous coronary arteries 
with absent RCA (not seen on coronary angiography, confirmed to 
be absent on coronary CTA), microvascular angina on medical 
therapy, hypertension, mitral regurgitation (previously 
moderate, now mild), h/o EtOH use disorder, asthma, OSA on CPAP, 
and morbid obesity who presented with sudden onset chest pain 
and troponin-T elevation concerning for NSTEMI. The patient 
underwent coronary angiography showing no flow-limiting 
epicardial coronary disease. Her chest pain was thought to be 
due to MI with nonobstructive coronary arteries and she was 
managed on medical therapy.

Active Issues:
# NSTEMI, h/o microvascular dysfunction, Anomalous coronary 
arteries (no RCA): Patient had chest pain at rest with radiation 
to the left arm, nausea, and diaphoresis concerning for NSTEMI 
with elevated troponin-T to 0.15 and eGFR >75 mL/min/1.73m2. On 
admission, she was chest pain free. Coronary angiogram showed no 
flow-limiting epciardial coronary artery stenosis. Her chest 
pain was attributed to microvascular dysfunction/MI due to 
nonobstructive coronary disease (MINOCA). Metoprolol was added 
to her medication regimen and she was continued on clopidogrel, 
atorvastatin, ranolazine and amlodipine. 

Chronic Issues:
# Asthma : Continued Fluticasone/Salmeterol 500/50 BID, 
singulair and albuterol 

# OSA: Continued CPAP while inpatient.

# Hypertension: Continued on home losartan, amlodipine; 
metoprolol added for post-MI secondary prevention as above.

# Hyperlipidemia: Continued home atorvastatin 80 mg PO QPM

# GERD: Continued ranitidine 150 mg PO BID, changed omeprazole 
to pantoprazole given FDA warning about interaction between 
omeprazole and clopidogrel

# Depression: Continued on home duloxetine. 

# CODE: Full presumed 
# CONTACT: HCP: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. DULoxetine 120 mg PO DAILY 
5. Furosemide 60 mg PO BID 
6. Losartan Potassium 100 mg PO DAILY 
7. Montelukast 10 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ranitidine 150 mg PO DAILY:PRN Reflux 
10. Ranolazine ER 1000 mg PO BID 
11. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
12. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH DAILY 
13. Naltrexone 50 mg PO DAILY 
 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
4.  amLODIPine 2.5 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Clopidogrel 75 mg PO DAILY  
7.  DULoxetine 120 mg PO DAILY  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH DAILY  
9.  Furosemide 60 mg PO BID  
10.  Losartan Potassium 100 mg PO DAILY  
11.  Montelukast 10 mg PO DAILY  
12.  Naltrexone 50 mg PO DAILY  
13.  Ranitidine 150 mg PO DAILY:PRN Reflux  
14.  Ranolazine ER 1000 mg PO BID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non-ST segment elevation myocardial infarction with 
non-obstructive coronary arteries
-Congenitally anomalous coronary artery with absent right 
coronary artery
-Coronary microvascular dysfunction
-Chronic myopathy with elevated creatinine kinase and normal 
thyroid stimulating hormone levels
-Asthma
-Morbid obesity
-Obstructive sleep apnea
-Hypertension
-Hyperlipidemia
-Gastroesophageal reflux disease
-Depression
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you during your admission to ___. 
Below you will find information regarding your stay.

WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted because you are having chest pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You had a cardiac cath that showed no narrowings of the main 
arteries in your heart.
- You were started on a medication called metoprolol to decrease 
the work of your heart.

WHAT SHOULD I DO WHEN I GO HOME?  
- Please stick to a low salt diet and monitor your fluid intake. 
 
- Take your medications as prescribed. You will be taking two 
new medications, metoprolol and pantoprazole. 
- A good app to use to search for discount prescriptions is 
GoodRx. It's an app you can use to find where you can get your 
prescriptions the cheapest or find coupons.   
- Keep your follow up appointments with your team of doctors  

Thank ___ for letting us be a part of your care!  

Your ___ Care Team  
 
Followup Instructions:
___